US08193214B2
3-[1-Naphthalen-1-yl-meth-ylidene]-imidazo[1,2-a]pyridin-2-one
A mixture of 1 g (4.7 mmol) of imidazo[1,2-a]pyridin-2-one hydrobromide salt and 726 mg (4.7 mmol) of 1-naphthaldehyde in 20 mL of ethanol is heated at reflux for 1 h and then cooled to room temperature. The precipitate is collected. The isolated solid is suspended in 40 mL of 2M potassium carbonate solution and the resulting mixture is stirred for 48 h at room temperature. The precipitated solid is collected and washed with water to give the desired compound.

reactant | imidazo[1,2-a]pyridin-2-one hydrobromide salt | 4.7 mmol, 1 g | Br.N=1C(CN2C1C=CC=C2)=O
reactant | 1-naphthaldehyde | 4.7 mmol, 726 mg | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-[1-Naphthalen-1-yl-meth-ylidene]-imidazo[1,2-a]pyridin-2-one | C1(=CC=CC2=CC=CC=C12)C=C1C(N=C2N1C=CC=C2)=O | C18H12N2O
